US04351833
dl-9-Amino-1-hydroxy-6-methyl-3-(3-methyl-2-octylthio)-5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline
To 10 ml. of dry methanol is added 1.51 g. (3.1 mmole) of dl-1-hydroxy-6-methyl-3-(3-methyl-2-octylthio)-5,6,6a,7,10,10a-hexahydrobenzo[c]quinoline-9(8H)one, 2.39 g. (31 mmole) ammonium acetate and 0.272 g. (4.34 mmole) sodium cyanoborohydride, and the resulting mixture is heated at reflux for two days. The resulting mixture is acidified to pH 2 with hydrochloric acid and evaporated to dryness in vacuo. The residue is taken up in water, washed with ethyl ether, the aqueous phase adjusted to pH 12 with sodium hydroxide solution and extracted with ethyl ether. The extracts are washed with brine, dried over anhydrous magnesium sulfate and evaporated to dryness to provide the title compound as a mixture of diastereomers which are separated, if desired, by fractional crystallization followed by column chromatography on silica gel.

reactant | 1-hydroxy-6-methyl-3-(3-methyl-2-octylthio)-5,6,6a,7,10,10a-hexahydrobenzo[c]quinoline-9(8H)one | OC1=C2C3C(C(NC2=CC(=C1)SC(C)C(CCCCC)C)C)CCC(C3)=O | C23H35NO2S
reactant | ammonium acetate | 31 mmole | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 4.34 mmole | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 9-Amino-1-hydroxy-6-methyl-3-(3-methyl-2-octylthio)-5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline | NC1CC2C(C(NC3=CC(=CC(=C23)O)SC(C)C(CCCCC)C)C)CC1 | C23H38N2OS
